US08466141B2
17.4 g (0.10M) of 2-hydroxy-1,4-naphthoquinone was dissolved in 120 ml of DMSO, and 0.88 g (0.11M) of LiH was gradually added thereto. Here, this should be done with care because hydrogen evolves. The reaction solution was stirred, and after confirming no further production of hydrogen, was additionally stirred for another 30 min. Then, 15.9 g (0.10M) of prenyl bromide (1-bromo-3-methyl-2-butene) and 3.35 g (0.025M) of LiI were gradually added thereto. The reaction solution was heated to 45° C. and then stirred vigorously for 12 hours at that temperature. The reaction solution was cooled below 10° C., and 76 g of ice was first added and 250 ml of water was then added. Thereafter, 25 ml of concentrated HCl was gradually added to maintain the resulting solution at an acidic pH>1.200 ml of EtOAc was added to the reaction mixture which was then stirred vigorously, thereby producing white solids that were not dissolved in EtOAc. These solids were filtered and an EtOAc layer was separated. The aqueous layer was extracted once again with 100 ml of EtOAc and was combined with the previously extracted organic layer. The organic layer was washed with 150 ml of 5% NaHCO3, and was concentrated. The resulting concentrates were dissolved in 200 ml of CH2Cl2, and were vigorously shaken to separate two layers with addition of 70 ml of an aqueous 2N NaOH solution. A CH2Cl2 layer was further separated twice with treatment of an aqueous 2N NaOH solution (70 ml×2). The thus-separated aqueous solutions were combined together and adjusted to an acidic pH>2, thereby forming solids. The resulting solids were filtered and separated to give Lapachol. The thus-obtained Lapachol was recrystallized from 75% EtOH. The resulting Lapachol was mixed with 80 ml of sulfuric acid, and the mixture was vigorously stirred at room temperature for 10 min and 200 g of ice was added thereto to complete the reaction. 60 ml of CH2Cl2 was added to the reaction materials which were then shaken vigorously. Thereafter, a CH2Cl2 layer was separated and washed with 5% NaHCO3. An aqueous layer was extracted once again using 30 ml of CH2Cl2, washed with 5% NaHCO3 and combined with the previously extracted organic layer. The organic layer was dried over MgSO4 and concentrated to give impure β-Lapachone. The thus-obtained β-Lapachone was recrystallized from isopropanol, thereby obtaining 8.37 g of pure β-Lapachone.

reactant | 2-hydroxy-1,4-naphthoquinone | 0.10M, 17.4 g | OC=1C(C2=CC=CC=C2C(C1)=O)=O | C10H6O3
reactant | LiH | 0.11M, 0.88 g | [H-].[Li+]
reactant | hydrogen | [H][H] | H2
reactant | prenyl bromide | 0.10M, 15.9 g | C(C=C(C)C)Br | C5H9Br
reactant | LiI | 0.025M, 3.35 g | [Li+].[I-]
reactant | HCl | 25 ml | Cl | ClH
solvent | DMSO | 120 ml | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 250 ml | O | H2O
product | Lapachol | CC(=CCC1=C(C(=O)C=2C=CC=CC2C1=O)O)C | C15H14O3
